US06545108B1
A suspension of 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one (2.45 g, 8.1 mmol) in toluene (28 mL) was treated with DMF (14 mL), 2,5-diphenyl-pyrrol-1-ylamine (1.99 g, 8.5 mmol) and p-toluene sulfonic acid (73 mg). The resulting suspension was fitted with a Dean Stark trap and heated to reflux in an oil bath for 21 h, then cooled to rt and allowed to stand under Ar for 4 days. The desired compound did not crystallize, therefore the solution was concentrated in vacuo. Approximately half of the residue was purified by flash chromatography (SiO2, 5-100% EtOAc/heptane) to afford some pure desired 2,3-bis(2,5-Diphenyl-pyrrol-1-ylimino)-butane (780 mg) and some desired contaminated with starting 2,5-diphenyl-pyrrol-1-ylamine. The remaining crude residue was flash chromatographed (SiO2, 33-50% CH2Cl2/heptane) in an attempt to remove excess amino pyrrole. No separation was achieved, therefore all of the fractions were combined, together with the impure material from the first column and concentrated in vacuo. This mixture was suspended in toluene (15 mL) and treated with DMF (5 mL), 2,3-butanedione (0.81 mL, 9.24 mmol) and p-toluene sulfonic acid (7 mg). The resulting suspension was heated to 70° C. in an oil bath, and stirred under Ar for 3 h, then cooled to rt and concentrated in vacuo. The resulting solid was washed with water, heptane and toluene (to remove 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one and 2,3-butanedione) and dried in vacuo to afford 2,3-bis(2,5-Diphenyl-pyrrol-1-ylimino)-butane (1.42 g) as a yellow solid. Overall, 2.2 g (52% based on 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one) of 2,3-bis(2,5-Diphenyl-pyrrol-1-ylimino)-butane was isolated as a yellow solid: 1H NMR (CDCl3, chemical shifts in ppm relative to TMS): 1.71 (s, 6H), 6.44 (s, 4H), 7.22-7.36 (m, 20H).

reactant | 2,5-diphenyl-pyrrol-1-ylamine | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)N | C16H14N2
reactant | 2,3-butanedione | 9.24 mmol, 0.81 mL | CC(C(C)=O)=O | C4H6O2
reactant | p-toluene sulfonic acid | 7 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,3-bis(2,5-Diphenyl-pyrrol-1-ylimino)-butane | 1.42 g | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)N=C(C)C(C)=NN1C(=CC=C1C1=CC=CC=C1)C1=CC=CC=C1 | C36H30N4
